2174-10-10 06:22:00 Physician Resident Progress Note
Chief Complaint: cocaine abuse
   24 Hour Events:
   Patient given lasix 10mg IV  with good effect 2L.  She was weaned for
   NRB to 5LNC and her tachypnea improved.
   She was given verpamil 12.5 mg IV overnight for improved heart rate
   control.
   Patient was hypoglycemic to 19 overnight without symptoms, so D5W at 75
   was resumed.
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendLisinopril
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2174-10-9**] 09:00 PM
   Verapamil - [**2174-10-10**] 03:00 AM
   Dextrose 50% - [**2174-10-10**] 05:38 AM
   Other medications:
   Pancrease enzymes TID with meals
   Calcium/VIt D
   Sertraline 25 mg daily
   Diazepam 10 mg IV prn ciwa
   Aspirin 325
   Heparin Drip
   Nitroglycerin PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-10**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 111 (96 - 130) bpm
   BP: 148/92(106) {110/67(71) - 149/98(110)} mmHg
   RR: 21 (21 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  3,020 mL
                                                                    521 mL
   PO:
             TF:
   IVF:
                                                                     20 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    600 mL
   Urine:
                                                                  2,300 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: somnolent, NAD
   HEENT: EOMI, o/p clear
   CV: RRR, no m/r/g
   Pulm: crackles at bases bilaterally
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   150 K/uL
   9.2 g/dL
   52 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   14 mg/dL
   103 mEq/L
   137 mEq/L
   27.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2174-10-9**]  07:50 PM
                             [**2174-10-10**]  01:53 AM
   WBC
   10.7
   Hct
   27.6
   Plt
   150
   Cr
   1.5
   TropT
   0.15
   0.20
   Glucose
   52
   Other labs: PT / PTT / INR:16.1/63.1/1.4, CK / CKMB /
   Troponin-T:69//0.20, ALT / AST:65/129, Alk Phos / T Bili:203/1.0,
   Albumin:3.1 g/dL, LDH:269 IU/L, Ca++:8.0 mg/dL, Mg++:0.9 mg/dL, PO4:2.3
   mg/dL
   [**2174-10-9**] - Urine culture
 Pending
   [**2174-10-9**] - Blood culture x 2 - pending
   Assessment and Plan
   A/P:  Ms. [**Known lastname **] is a 62 yo female with history of polysubstance abuse,
   DM, admittied with hypoglycemia and [**Known lastname **] in the setting of cocaine
   abuse.
   .
   1.  Respiratory distress.  Patient found to be in respiratory distress
   upon arrival to the floor.  She was tachypneic to 40s with labored
   breathing and crackles diffusely on lung exam in setting of receiving
   4LNS in the ED.  CXR showed CHF, and she responded to lasix 10mg IV x
   1.  Now weaned to 2L NC, but still positive from yesterday.
   - lasix prn for SOB
   - wean O2
   .
   2. [**Known lastname **].  Patient noted to have lateral ST depressions on admission
   which have resolved on arrival to floor.
   - continue aspirin
   - no BB given due to cocaine use
   - heparin drip until rule out complete
   - appreciate cardiology recs
   - initiate oral verapamil for HR and BP control
   .
   3.  Substance abuse.  Patient tachycardic, hypertensive, with dilated
   pupils and febrile on admission, likely secondary to cocaine abuse.
   Now sedated after receiving ativan.  Also had ETOH in blood.
   - monitor with CIWA scale
   .
   3.  Hypoglycemia.  Likely secondary to decreased PO intake in the
   setting of unchanged insulin dose, cocaine abuse, and ?question of
   pneumonia.  FS initially in 200s, but fell to 20 overnight, so D5W was
   resumed.
   - q 1 hour fingersticks
   - stop D5W FS in 300s
   .
   4.  HTN.  BP currently improved after improvement of respiratory
   distress. Will avoid ativan due to somnolence.
   - initiate oral verapamil for HTN
   .
   5.  Tachycardia.  Likely secondary to cocaine use or alcohol
   withdrawal.  Given [**Last Name (LF) **], [**First Name3 (LF) 178**] aim to keep HR in 80s.
   - verapamil PRN
   .
   6. Elevated lactate.  History of bowel ischemia with elevated, but no
   evidence of abdominal pain at present.  No evidence of sepsis at
   present.  Lactate has now normalized.
   - re-check lactate
   .
   7.  ?Pneumonia.  Fever and productive cough per patient with question
   of infiltrate on CXR.  Got levo/ceftriaxone in ED.  Fever may have been
   in setting of cocaine intoxication.  Will monitor clinically for now
   and hold off on antibiotic as patient is without leukocytosis and
   prominent respiratory symptoms at presentation.
   - hold off on antibiotics for now
   - follow fever curve, WBC
   .
   8.  Fever.  Patient febrile to 102 in ED.  Concern for pneumonia versus
   cocaine abuse.  Received levaquin/ceftriaxone in ED for pneumonia, but
   infiltrate is unimpressive.  WIll send sputum, blood, urine cultures to
   evalaute for source of fever.  Patient does not have an elevated WBC.
   - monitor fever curve, wbc
   - f/u cultures
   .
   9.  CRI.  Patient Cr is improved from previous admission.  Baseline Cr
   of 2.0.
   - follow Cr
   - renally dose all meds
   .
   10. DVT PPX: Heparin Drip.
   .
   PIVs.
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2174-10-9**] 08:49 PM
   20 Gauge - [**2174-10-9**] 10:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2174-10-11 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Cardiology recs:  Discontinued heparin drip. No further workup at this
   time per cardiology because she had recent evaluation. Continue calcium
   channel blocker for HTN
   - spiked temp of 101.6 at noon -> blood, urine, and sputum cultures
   sent
   - Given lasix 10mg IV x 1, 20mg IV x 1 for diuresis
   -          [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs, patient started on 4 units glargine insulin
   QPM. Blood sugars low overnight
 EKG - At [**2174-10-10**] 08:20 AM
 BLOOD CULTURED - At [**2174-10-10**] 12:00 PM
 URINE CULTURE - At [**2174-10-10**] 12:00 PM
 FEVER - 101.6
F - [**2174-10-10**] 12:00 PM
   Allergies:
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2174-10-10**] 09:10 PM
   Furosemide (Lasix) - [**2174-10-10**] 11:10 PM
   Verapamil - [**2174-10-11**] 12:15 AM
   Other medications:
   Insulin sliding scale
   Glargine 4 units qhs
   Verapamil 80 mg q8 hours
   NGL prn
   Pancrease
   Vitamin D
   Calcium Carbonate
   Sertraline
   Diazepam 10 mg PRN CIWA
   Aspirin 325 daily
   q
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-11**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.1
C (100.5
   HR: 90 (89 - 113) bpm
   BP: 109/67(76) {95/63(70) - 142/118(124)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,560 mL
                                                                     64 mL
   PO:
                                                                  1,180 mL
             TF:
   IVF:
                                                                  2,235 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                  1,080 mL
   Urine:
                                                                  1,960 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                 -1,016 mL
   Respiratory support
   O2 Delivery Device: 2L Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Labs / Radiology
   121 K/uL
   9.1 g/dL
   75 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   11 mg/dL
   98 mEq/L
   131 mEq/L
   26.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2174-10-9**]  07:50 PM
                             [**2174-10-10**]  01:53 AM
                             [**2174-10-10**]  07:48 AM
                             [**2174-10-11**]  03:30 AM
   WBC
   10.7
   7.2
   Hct
   27.6
   26.4
   Plt
   150
   121
   Cr
   1.5
   1.4
   1.6
   TropT
   0.15
   0.20
   Glucose
   52
   81
   75
   Other labs: PT / PTT / INR:15.3/58.6/1.4, CK / CKMB /
   Troponin-T:69//0.20, ALT / AST:98/288, Alk Phos / T Bili:234/2.0,
   Differential-Neuts:68.3 %, Lymph:28.4 %, Mono:1.8 %, Eos:1.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:324 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.4 mg/dL, PO4:2.9 mg/dL
   Micro:
   Urine culture
 pending
   Blood culture x 2
 pending
   Imaging:
   [**10-10**].  Cxr.
   FINDINGS: In comparison with study of [**10-9**], the prominence of
   interstitial
   markings has decreased and the pulmonary vascularity is now essentially
   within
   normal limits. Some residual increased opacification is seen in the
   middle
   lobe region. Some atelectatic change may also be present at the left
   base
   medially.
   Assessment and Plan
   A/P:  Ms. [**Known lastname **] is a 62 yo female with history of polysubstance abuse,
   DM, admittied with hypoglycemia and [**Known lastname **] in the setting of cocaine
   abuse.
   .
   1.  Respiratory distress.  Patient found to be in respiratory distress
   upon arrival to the floor.  She was tachypneic to 40s with labored
   breathing and crackles diffusely on lung exam in setting of receiving
   4LNS in the ED.  CXR showed CHF, and she responded to lasix 10mg IV x
   1.  Now weaned to 2L NC, but still positive from yesterday.
   - lasix prn for SOB
   - wean O2
   .
   2. [**Known lastname **].  Patient noted to have lateral ST depressions on admission
   which have resolved on arrival to floor.
   - continue aspirin
   - no BB given due to cocaine use
   - heparin drip until rule out complete
   - appreciate cardiology recs
   - initiate oral verapamil for HR and BP control
   .
   3.  Substance abuse.  Patient tachycardic, hypertensive, with dilated
   pupils and febrile on admission, likely secondary to cocaine abuse.
   Now sedated after receiving ativan.  Also had ETOH in blood.
   - monitor with CIWA scale
   .
   3.  Hypoglycemia.  Likely secondary to decreased PO intake in the
   setting of unchanged insulin dose, cocaine abuse, and ?question of
   pneumonia.  FS initially in 200s, but fell to 20 overnight, so D5W was
   resumed.
   - q 1 hour fingersticks
   - stop D5W FS in 300s
   .
   4.  HTN.  BP currently improved after improvement of respiratory
   distress. Will avoid ativan due to somnolence.
   - initiate oral verapamil for HTN
   .
   5.  Tachycardia.  Likely secondary to cocaine use or alcohol
   withdrawal.  Given [**Last Name (LF) **], [**First Name3 (LF) 178**] aim to keep HR in 80s.
   - verapamil PRN
   .
   6. Elevated lactate.  History of bowel ischemia with elevated, but no
   evidence of abdominal pain at present.  No evidence of sepsis at
   present.  Lactate has now normalized.
   - re-check lactate
   .
   7.  ?Pneumonia.  Fever and productive cough per patient with question
   of infiltrate on CXR.  Got levo/ceftriaxone in ED.  Fever may have been
   in setting of cocaine intoxication.  Will monitor clinically for now
   and hold off on antibiotic as patient is without leukocytosis and
   prominent respiratory symptoms at presentation.
   - hold off on antibiotics for now
   - follow fever curve, WBC
   .
   8.  Fever.  Patient febrile to 102 in ED.  Concern for pneumonia versus
   cocaine abuse.  Received levaquin/ceftriaxone in ED for pneumonia, but
   infiltrate is unimpressive.  WIll send sputum, blood, urine cultures to
   evalaute for source of fever.  Patient does not have an elevated WBC.
   - monitor fever curve, wbc
   - f/u cultures
   .
   9.  CRI.  Patient Cr is improved from previous admission.  Baseline Cr
   of 2.0.
   - follow Cr
   - renally dose all meds
   .
   10. DVT PPX: Heparin Drip.
   .
   PIVs.
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-10-9**] 08:49 PM
   20 Gauge - [**2174-10-9**] 10:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-10-12 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2174-10-11**] 08:30 AM
 SHEATH - START [**2174-10-12**] 04:46 AM
   Verapamil increased to 120 TID for rate control.
   [**Last Name (un) 276**] recommended increasing Lantus to 8u qHS and giving additional 4U
   at noon.  Also recommended increasing sliding scale which was done.
   No further hypoglycemic events.
   CIWA discontinued.
   Diuresed with lasix 20 mg IV x1.
   Allergies:
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-10-11**] 10:59 AM
   Heparin Sodium (Prophylaxis) - [**2174-10-11**] 09:24 PM
   Verapamil - [**2174-10-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-10-12**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 96 (86 - 101) bpm
   BP: 124/75(87) {84/55(60) - 129/80(90)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,670 mL
                                                                    715 mL
   PO:
                                                                  1,330 mL
                                                                    650 mL
   TF:
   IVF:
                                                                    340 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                    230 mL
   Urine:
                                                                  2,810 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,140 mL
                                                                    485 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   8.8 g/dL
   107 mg/dL
   1.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   26.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2174-10-9**]  07:50 PM
                             [**2174-10-10**]  01:53 AM
                             [**2174-10-10**]  07:48 AM
                             [**2174-10-11**]  03:30 AM
                             [**2174-10-12**]  03:57 AM
   WBC
   10.7
   7.2
   7.8
   Hct
   27.6
   26.4
   26.1
   Plt
   150
   121
   130
   Cr
   1.5
   1.4
   1.6
   1.9
   TropT
   0.15
   0.20
   Glucose
   52
   81
   75
   107
   Other labs: PT / PTT / INR:15.3/58.6/1.4, CK / CKMB /
   Troponin-T:69//0.20, ALT / AST:98/288, Alk Phos / T Bili:234/2.0,
   Differential-Neuts:68.3 %, Lymph:28.4 %, Mono:1.8 %, Eos:1.0 %, Lactic
   Acid:2.0 mmol/L, Albumin:3.0 g/dL, LDH:324 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname **] is a 62 yo female with history of polysubstance abuse,
   DM, admittied with hypoglycemia and [**Known lastname **] in the setting of cocaine
   abuse.
   .
   1. [**Known lastname **].  Patient noted to have lateral ST depressions on admission
   which have resolved on arrival to floor.  [**Month (only) 60**] have been secondary to
   hypoglycemia or cocaine use.
   - continue aspirin
   - no BB given due to cocaine use
   - appreciate cardiology recs
   - initiate oral verapamil for HR and BP control
   .
   2.  Substance abuse.  Initially with Utox positive for cocaine and
   serum positive for ETOH.  No evidence of withdrawal at present.
   - d/c ciwa
   .
   3. Volume status.  Fluid overloaded on CXR and requiring 2LNC.
   - lasix prn for diuresis of 1L
   .
   3.  Hypoglycemia.  Likely secondary to decreased PO intake in the
   setting of unchanged insulin dose, cocaine abuse, and ?question of
   pneumonia.  FS ranging from 40s to 300s.  Glargine resumed last ngiht.
   - q 1 hour fingersticks
   - glargine and HISS
   - [**Last Name (un) 276**] recs
   .
   4.       HTN.  On nifedepine at home.
   -          uptitrate verapamil
   .
   5.  Tachycardia.  Likely secondary to cocaine use or alcohol
   withdrawal.  Given [**Last Name (LF) **], [**First Name3 (LF) 178**] aim to keep HR in 80s.
   - continue verapamil
   .
   6.  ?Pneumonia.  Fever and productive cough per patient with question
   of infiltrate on CXR.  Got levo/ceftriaxone in ED.  Fever may have been
   in setting of cocaine intoxication.  Will monitor clinically for now
   and hold off on antibiotic as patient is without leukocytosis and
   prominent respiratory symptoms at presentation.
   - hold off on antibiotics for now
   - follow fever curve, WBC
   .
   7.  Fever.  Patient with ongoing fevers.  Concern for pneumonia versus
   cocaine abuse.  Received levaquin/ceftriaxone in ED for pneumonia, but
   infiltrate is unimpressive so no further antibiotics given.  WIll send
   sputum, blood, urine cultures to evalaute for source of fever.  Patient
   does not have an elevated WBC.
   - monitor fever curve, wbc
   - f/u cultures
   .
   8.  CRI.  Creatinine at baseline.
   - follow Cr
   - renally dose all meds
   .
   9. DVT PPX: Heparin SQ.
   .
   PIVs.
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-10-9**] 08:49 PM
   20 Gauge - [**2174-10-9**] 10:43 PM
   Sheath - [**2174-10-12**] 04:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: